US08877760B2
A mixture of 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-chloropyrazine-2-carbonitrile (74 mg, 0.257 mmol), 4-cyanoaniline (40 mg, 0.339 mmol), K2CO3 (80 mg, 0.579 mmol), BINAP (25 mg, 0.040 mmol) and Pd(OAc)2 (10 mg, 0.044 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 110 C for 4 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to give 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(4-cyanophenylamino)pyrazine-2-carbonitrile (36 mg).

reactant | 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-chloropyrazine-2-carbonitrile | 0.257 mmol, 74 mg | N[C@@H]1[C@@H](CCCC1(F)F)NC=1N=C(C(=NC1)C#N)Cl | C11H12ClF2N5
reactant | 4-cyanoaniline | 0.339 mmol, 40 mg | C(#N)C1=CC=C(N)C=C1 | C7H6N2
reactant | K2CO3 | 0.579 mmol, 80 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BINAP | 0.040 mmol, 25 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.044 mmol, 10 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(4-cyanophenylamino)pyrazine-2-carbonitrile | 36 mg | N[C@@H]1[C@@H](CCCC1(F)F)NC=1N=C(C(=NC1)C#N)NC1=CC=C(C=C1)C#N | C18H17F2N7
